US05220003
reacting (2R,3R) 3-(2,2-dimethoxyethyl)oxiranemethanol with diisobutylaluminum hydride to form 5,5-dimethoxypentane-1,2-diol;

reactant | (2R,3R) 3-(2,2-dimethoxyethyl)oxiranemethanol | COC(C[C@@H]1[C@H](O1)CO)OC | C7H14O4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | 5,5-dimethoxypentane-1,2-diol | COC(CCC(CO)O)OC | C7H16O4
